US08034940B2
A mixture of crude 1-(2-chlorophenyl)butane-1,3-dione from the previous step and 1,1-dimethoxy-N,N-dimethylmethanamine (2.042 g, 17.14 mmol) in toluene (20 mL) was heated to reflux for 2 h and concentrated. Silica gel chromatography, using 70 to 100% ethyl acetate in hexanes gradient, gave 1-(2-chlorophenyl)-2-((dimethylamino)methylene)butane-1,3-dione as a red, viscous oil (2.20 g, 51% yield for 2 steps). MS (ES+) m/z: 252 (M+H); HPLC retention time: 2.51 min (Analytical HPLC Method D).

reactant | 1-(2-chlorophenyl)butane-1,3-dione | ClC1=C(C=CC=C1)C(CC(C)=O)=O | C10H9ClO2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 17.14 mmol, 2.042 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chlorophenyl)-2-((dimethylamino)methylene)butane-1,3-dione | 51% yield | ClC1=C(C=CC=C1)C(C(C(C)=O)=CN(C)C)=O | C13H14ClNO2
